### PR TITLE
Formatting and naming improvements to Imp

### PR DESCRIPTION
**Pull request by mwhicks1**
Several across-the-board transformations:
1. Align relation naming and style with Mathlib conventions (e.g., `E_AExpNum` becomes `num` in the `Aexp.EvalR` namespace)
2. Use dot notation for variable receivers consistently (`Aexp.eval st a -> a.eval st` etc.)
3. Wrap the remaining >100-column code, comment and prose lines.
4. Adjust command evaluation relation notation so that commands don't need to be wrapped in `imp { ... }`

### CODE REVIEW

File: HL/Imp.lean [hunk 1]
```diff
@@ -396,44 +396,40 @@ gives us readable names to refer to during proofs.
...
+      Aexp.EvalR (.num n) n
+  | plus (a1 a2 : Aexp) (n1 n2 : Nat)
+      (h1 : Aexp.EvalR a1 n1) (h2 : Aexp.EvalR a2 n2) :
+      Aexp.EvalR (.plus a1 a2) (n1 + n2)
+  | minus (a1 a2 : Aexp) (n1 n2 : Nat)
+      (h1 : Aexp.EvalR a1 n1) (h2 : Aexp.EvalR a2 n2) :
+      Aexp.EvalR (.minus a1 a2) (n1 - n2)
+  | mult (a1 a2 : Aexp) (n1 n2 : Nat)
+      (h1 : Aexp.EvalR a1 n1) (h2 : Aexp.EvalR a2 n2) :
+      Aexp.EvalR (.mult a1 a2) (n1 * n2)
```
Comment (chenson2018) [inline HL/Imp.lean]: In the `Aexp` namespace I would write:
```suggestion
inductive Aexp.EvalR : Aexp → Nat → Prop where
  | num (n : Nat) : EvalR (.num n) n
  | plus (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
      EvalR (plus a1 a2) (n1 + n2)
  | minus (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
      EvalR (minus a1 a2) (n1 - n2)
  | mult (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
      EvalR (mult a1 a2) (n1 * n2)
```

File: HL/Imp.lean [hunk 2]
```diff
@@ -396,44 +396,40 @@ gives us readable names to refer to during proofs.
...
+      Aexp.EvalR e2 n2 →
+      Aexp.EvalR (.plus e1 e2) (n1 + n2)
+  | minus (e1 e2 : Aexp) (n1 n2 : Nat) :
+      Aexp.EvalR e1 n1 →
+      Aexp.EvalR e2 n2 →
+      Aexp.EvalR (.minus e1 e2) (n1 - n2)
+  | mult (e1 e2 : Aexp) (n1 n2 : Nat) :
+      Aexp.EvalR e1 n1 →
+      Aexp.EvalR e2 n2 →
+      Aexp.EvalR (.mult e1 e2) (n1 * n2)
```
Comment (chenson2018) [inline HL/Imp.lean]: These even fit on one line

```suggestion
inductive Aexp.EvalR : Aexp → Nat → Prop where
  | num (n : Nat) : EvalR (num n) n
  | plus (e1 e2 : Aexp) (n1 n2 : Nat) : EvalR e1 n1 → EvalR e2 n2 → EvalR (plus e1 e2) (n1 + n2)
  | minus (e1 e2 : Aexp) (n1 n2 : Nat) : EvalR e1 n1 → EvalR e2 n2 → EvalR (minus e1 e2) (n1 - n2)
  | mult (e1 e2 : Aexp) (n1 n2 : Nat) : EvalR e1 n1 → EvalR e2 n2 → EvalR (mult e1 e2) (n1 * n2)
```

File: HL/Imp.lean [hunk 3]
```diff
@@ -442,37 +438,37 @@ names chosen during proofs involving the relation, at the cost of making
...
 _inference rules_, where the premises above the line justify the
-conclusion below the line.  For example, the constructor `E_APlus`
+conclusion below the line.  For example, the constructor `plus`
 
 ```
-    | E_APlus (a1 a2 : Aexp) (n1 n2 : Nat) :
-        Aexp.evalR a1 n1 →
-        Aexp.evalR a2 n2 →
-        Aexp.evalR (.plus a1 a2) (n1 + n2)
+    | plus (a1 a2 : Aexp) (n1 n2 : Nat) :
```
Comment (chenson2018) [inline HL/Imp.lean]: Though if you're wanting to keep this one split so that it looks like the inference rule, that is understandable. I'd still keep the more compact version for the actual definition above.

File: HL/Imp.lean [hunk 4]
```diff
@@ -675,76 +671,88 @@ mwhicks1: the `-- WORKINCLASS` marker leaves this shorter proof as a live in-cla
...
+  | neq (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) :
+      Bexp.EvalR (.neq a1 a2) (n1 != n2)
+  | le (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) :
+      Bexp.EvalR (.le a1 a2) (n1 ≤ n2)
+  | gt (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) :
+      Bexp.EvalR (.gt a1 a2) (n1 > n2)
+  | not (b : Bexp) (bv : Bool) (h : Bexp.EvalR b bv) :
+      Bexp.EvalR (.not b) (!bv)
+  | and (b1 b2 : Bexp) (tv1 tv2 : Bool) (h1 : Bexp.EvalR b1 tv1) (h2 : Bexp.EvalR b2 tv2) :
+      Bexp.EvalR (.and b1 b2) (tv1 && tv2)
```
Comment (chenson2018) [inline HL/Imp.lean]:
```suggestion
  | bool (b : Bool) : EvalR (bool b) b
  | eq (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) : EvalR (eq a1 a2) (n1 == n2)
  | neq (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) : EvalR (neq a1 a2) (n1 != n2)
  | le (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) : EvalR (le a1 a2) (n1 ≤ n2)
  | gt (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) : EvalR (.gt a1 a2) (n1 > n2)
  | not (b : Bexp) (bv : Bool) (h : EvalR b bv) : EvalR (not b) (!bv)
  | and (b1 b2 : Bexp) (tv1 tv2 : Bool) (h1 : EvalR b1 tv1) (h2 : EvalR b2 tv2) : 
       EvalR (and b1 b2) (tv1 && tv2)
```

File: HL/Imp.lean [hunk 5]
```diff
@@ -1776,75 +1787,81 @@ state `st` to `st'`".
...
+  | ifFalse (st st' : State) (b : Bexp) (c1 c2 : Com)
+      (hb : b.eval st = false) (hc : Com.EvalR c2 st st') :
+      Com.EvalR (imp {if (~b) {~c1} else {~c2}}) st st'
+  | whileFalse (b : Bexp) (st : State) (c : Com)
+      (hb : b.eval st = false) :
+      Com.EvalR (imp {while (~b) {~c}}) st st
+  | whileTrue (st st' st'' : State) (b : Bexp) (c : Com)
+      (hb : b.eval st = true) (hc : Com.EvalR c st st')
+      (hloop : Com.EvalR (imp {while (~b) {~c}}) st' st'') :
+      Com.EvalR (imp {while (~b) {~c}}) st st''
```
Comment (chenson2018) [inline HL/Imp.lean]: With so many parentheses, I'd be meticulous about the dot notation for readability
 
```suggestion
inductive Com.EvalR : Com → State → State → Prop where
  | skip (st : State) : imp {skip;}.EvalR st st
  | asgn (st : State) (a : Aexp) (n : Nat) (x : Ident) (h : a.eval st = n) :
      imp {x := ~a;}.EvalR st (x →ₜ n ; st)
  | seq (c1 c2 : Com) (st st' st'' : State) (h1 : c1.EvalR st st') (h2 : c2.EvalR st' st'') :
      imp {~c1 ~c2}.EvalR st st''
  | ifTrue (st st' : State) (b : Bexp) (c1 c2 : Com) (hb : b.eval st = true)
      (hc : c1.EvalR st st') :
      imp {if (~b) {~c1} else {~c2}}.EvalR st st'
  | ifFalse (st st' : State) (b : Bexp) (c1 c2 : Com) (hb : b.eval st = false)
      (hc : c2.EvalR st st') :
      imp {if (~b) {~c1} else {~c2}}.EvalR st st'
  | whileFalse (b : Bexp) (st : State) (c : Com) (hb : b.eval st = false) :
      imp {while (~b) {~c}}.EvalR st st
  | whileTrue (st st' st'' : State) (b : Bexp) (c : Com) (hb : b.eval st)
      (hc : c.EvalR st st') (hloop : imp {while (~b) {~c}}.EvalR  st' st'') :
      imp {while (~b) {~c}}.EvalR st st''
```

File: HL/Imp.lean [hunk 6]
```diff
@@ -1776,75 +1787,81 @@ state `st` to `st'`".
...
+
+notation:40 st0 " =[ " c " ]=> " st1 => Com.EvalR c st0 st1
+-- Also accept a bare Imp command between the brackets, so concrete programs can
+-- be written without the `imp { … }` wrapper. Bare `Com` terms still work via the
+-- notation above; splice a Lean term into the command with `~`.
+syntax:40 term:41 " =[ " imp_com " ]=> " term:41 : term
+macro_rules
+  | `($st0 =[ $c:imp_com ]=> $st1) => `(Com.EvalR (imp { $c }) $st0 $st1)
```
Comment (chenson2018) [inline HL/Imp.lean]: I think this is more clear if it is a macro for the above

```suggestion
  | `($st0 =[ $c:imp_com ]=> $st1) => `($st0 =[ imp { $c } ]=> $st1)
```

File: HL/Imp.lean [hunk 7]
```diff
@@ -1776,75 +1787,81 @@ state `st` to `st'`".
...
+      Com.EvalR (imp {if (~b) {~c1} else {~c2}}) st st'
+  | whileFalse (b : Bexp) (st : State) (c : Com)
+      (hb : b.eval st = false) :
+      Com.EvalR (imp {while (~b) {~c}}) st st
+  | whileTrue (st st' st'' : State) (b : Bexp) (c : Com)
+      (hb : b.eval st = true) (hc : Com.EvalR c st st')
+      (hloop : Com.EvalR (imp {while (~b) {~c}}) st' st'') :
+      Com.EvalR (imp {while (~b) {~c}}) st st''
+
+notation:40 st0 " =[ " c " ]=> " st1 => Com.EvalR c st0 st1
```
Comment (chenson2018) [inline HL/Imp.lean]: The precedence of these notations should align

```suggestion
notation:40 st0:41 " =[ " c " ]=> " st1:41 => Com.EvalR c st0 st1
```
(no idea if that's the correct number, but it's what you put below)

**Review by chenson2018 — COMMENTED** [review]
I've tried to restrain myself to commenting only on formatting.

(For future reference though, I think after writing the automation chapter @dsainati1 will have thoughts about wanting to replace a lot of the `rfl` proofs with appropriate usages of `simp` that make use of currently non-existing API lemmas)

File: HL/Imp.lean [hunk 8]
```diff
@@ -1953,10 +1971,10 @@ Is the following proposition provable?
 :::answer
 ```
 theorem quiz3_answer (b : Bexp) (c : Com) (st st' : State)
-    (h : st =[ imp { if (~b) { ~c } else { ~c } } ]=> st') : st =[ c ]=> st' := by
+    (h : st =[ if (~b) { ~c } else { ~c } ]=> st') : st =[ c ]=> st' := by
   cases h with
-  | E_IfTrue _ _ _ _ _ hb hc => exact hc
-  | E_IfFalse _ _ _ _ _ hb hc => exact hc
+  | ifTrue _ _ _ _ _ hb hc => exact hc
+  | ifFalse _ _ _ _ _ hb hc => exact hc
```
Comment (dsainati1) [inline HL/Imp.lean:1960]: I think a lot of the proofs in this file can be golfed; this one, e.g., can use the <;> to avoid writing out all the cases.

File: HL/Imp.lean [hunk 9]
```diff
@@ -2290,88 +2308,88 @@ def Com.no_whiles (c : Com) : Bool :=
...
+        exact ⟨st'', .seq c1 c2 st st' st'' hc1 hc2⟩
+    | cond b c1 c2 h1 h2 ih1 ih2 =>
+        cases hb : b.eval st with
         | true =>
             obtain ⟨st', hc1⟩ := ih1 st
-            exact ⟨st', .E_IfTrue st st' b c1 c2 hb hc1⟩
+            exact ⟨st', .ifTrue st st' b c1 c2 hb hc1⟩
         | false =>
             obtain ⟨st', hc2⟩ := ih2 st
-            exact ⟨st', .E_IfFalse st st' b c1 c2 hb hc2⟩
```
Comment (dsainati1) [inline HL/Imp.lean:2348]: This feels very Claude - I would probably write `exists st'; constructor`. But maybe that's not idiomatic?

File: HL/Imp.lean (hunk 8 above)
Comment (mwhicks1) [reply HL/Imp.lean:1960]: Yes. I haven't done anything with the proofs. That's coming. This PR was just for notation.

File: HL/Imp.lean (hunk 9 above)
Comment (mwhicks1) [reply HL/Imp.lean:2348]: Deferring until next PR ...

File: HL/Imp.lean (hunk 5 above)
Comment (mwhicks1) [reply HL/Imp.lean]: I find the dot notation less readable in this case. To me, it is easy to see the relation first, in a capital letter, to anchor my mental parsing, and then to see the command followed by the pre/post states. @bcpierce00 any opinion from you?

File: HL/Imp.lean [hunk 10]
```diff
@@ -442,37 +424,37 @@ names chosen during proofs involving the relation, at the cost of making
...
 
 ## Inference Rule Notation
 
 ::::full
 In informal discussions, it is convenient to write the rules for
-{name}`Aexp.evalR` and similar relations in the more readable graphical form of
+{name}`Aexp.EvalR` and similar relations in the more readable graphical form of
 _inference rules_, where the premises above the line justify the
-conclusion below the line.  For example, the constructor `E_APlus`
+conclusion below the line.  For example, the constructor `plus`
```
Comment (xhalo32) [inline HL/Imp.lean:443]: This is the constructor for the `relation with *positional* hypotheses` rather than the one with named hypotheses which "we adopted". This risks being confusing as stated, maybe we should write
```
For example, the constructor `plus` (in the version of the inductive type with unnamed hypotheses)
```
instead?

File: HL/Imp.lean [hunk 11]
```diff
@@ -675,76 +657,84 @@ mwhicks1: the `-- WORKINCLASS` marker leaves this shorter proof as a live in-cla
...
-      | E_BLe a1 a2 n1 n2 h1 h2 =>
-          simp only [Bexp.eval]; rw [(aevalR_iff_aeval a1 n1).mp h1, (aevalR_iff_aeval a2 n2).mp h2]
-      | E_BGt a1 a2 n1 n2 h1 h2 =>
-          simp only [Bexp.eval]; rw [(aevalR_iff_aeval a1 n1).mp h1, (aevalR_iff_aeval a2 n2).mp h2]
-      | E_BNot b bv h ih => simp only [Bexp.eval]; rw [ih]
-      | E_BAnd b1 b2 tv1 tv2 h1 h2 ih1 ih2 => simp only [Bexp.eval]; rw [ih1, ih2]
+      | bool b => rfl
+      | eq a1 a2 n1 n2 h1 h2 =>
+          simp only [Bexp.eval]
+          rw [(Aexp.evalR_iff_eval a1 n1).mp h1, (Aexp.evalR_iff_eval a2 n2).mp h2]
```
Comment (xhalo32) [inline HL/Imp.lean:705]: I don't remember if there's already been discussion on this, but have we decided on a principle when to use `;` and when to write tactics on their own lines?

File: CONTRIBUTING.md [hunk 12]
```diff
@@ -368,23 +369,18 @@ guidelines.
...
-  `NatList.length`, etc., and it is the implicit style `Basics` establishes with
-  `namespace Nat` (`def pred`, not `def Nat.pred`).  Do **not** open the
-  namespace *before* the type is declared and then qualify every member: that
-  nests the type inside its own namespace (`NatList.NatList`) and reads against
-  the grain of the rest of the book.  (Established in `Basics`; applied to
-  `Lists`.)
+  *unqualified* names — `def app`, not `def NatList.app`. Exception:
+  if you are defining multiple types at once (e.g., inductive definitions
+  that reference one another), define their operations with qualified 
+  names, e.g., `Aexp.eval` and `Bexp.eval` in Imp.
```
Comment (xhalo32) [inline CONTRIBUTING.md]: As Aexp.eval and Bexp.eval are not mutually recursive, I don't quite understand this. It seems to me like this is more about the presentation order: introducing multiple definitions in parallel.

**Review by xhalo32 — APPROVED** [review]

File: HL/Imp.lean (hunk 5 above)
Comment (mwhicks1) [reply HL/Imp.lean]: Adding a comment about doing this to the file for revisiting

File: HL/Imp.lean (hunk 11 above)
Comment (mwhicks1) [reply HL/Imp.lean:705]: Good question. In this case, I was avoiding a long line. Do you want to post something on the Zulip for discussion, and then we can add the rule of thumb to CONTRIBUTING.md and effect a change throughout?

File: CONTRIBUTING.md (hunk 12 above)
Comment (mwhicks1) [reply CONTRIBUTING.md]: I amended the comment to hopefully clarify. Yes, they are not mutually recursive, but it is useful to define their evaluation relations next to one another in the next, rather than separate all `Aexp` and `Bexp` operations from one another in different namespaces (IMO).

File: HL/Imp.lean (hunk 11 above)
Comment (xhalo32) [reply HL/Imp.lean:705]: I will post on zulip tomorrow.

File: CONTRIBUTING.md (hunk 12 above)
Comment (xhalo32) [reply CONTRIBUTING.md]: The new version looks good!
